US05412121
A solution of 32 g of sodium hydroxide and 33 g of a mixture containing 37.1% of methyl 5-methyl-3,4-dihydroxy-2-furoate and 52.1% of ethyl 5-methyl-3,4-dihydroxy-2-furoate in 320 ml of water was allowed to stand at room temperature for 20 hours. To the resulting mixture is added at 0° C. in one hour 25.2 g of dimethyl sulphate followed by an additional stirring period of three hours at 0° C. The pH of the solution was adjusted to 6.5 by the addition of concentrated hydrochloric acid solution. Extraction with methyl t-butyl ether yielded 18.1 g of 2,5-dimethyl-4-hydroxy-3[2H] furanone of 88.8% purity (molar yield 76.6%).

reactant | sodium hydroxide | 32 g | [OH-].[Na+]
reactant | methyl 5-methyl-3,4-dihydroxy-2-furoate | CC1=C(C(=C(O1)C(=O)OC)O)O | C7H8O5
reactant | ethyl 5-methyl-3,4-dihydroxy-2-furoate | CC1=C(C(=C(O1)C(=O)OCC)O)O | C8H10O5
reactant | dimethyl sulphate | 25.2 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 320 ml | O | H2O
product | 2,5-dimethyl-4-hydroxy-3[2H] furanone | 18.1 g, yield 76.6% | CC1OC(=C(C1=O)O)C | C6H8O3
